US06696461B2
15. (7S,8R,9R)-7,8-Dihydroxy-6-methoxymethyl-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine
At room temperature, 0.2 g of sodium borohydride are added in small portions to 0.4 g of (8R, 9R)-8-hydroxy-6-methoxymethyl-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1 ,2-h][1,7]naphthyridin-7-one, dissolved in 20 ml of methanol, and the mixture is stirred at room temperature for 2 hours. The solvent is then removed under reduced pressure and the residue is admixed with water and extracted 3 times with methylene chloride. The organic phases are combined and concentrated to dryness in vacuo. Purification on silica gel (mobile phase: methylene chloride/methanol=100/3) gives 80 mg of the title compound [Rf=0.54 (methylene chloride/methanol=13/1)] of melting point 182-3° C. (decomp.).

reactant | sodium borohydride | 0.2 g | [BH4-].[Na+]
reactant | (8R, 9R)-8-hydroxy-6-methoxymethyl-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1 ,2-h][1,7]naphthyridin-7-one | 0.4 g | O[C@@H]1[C@H](NC=2C=3N(C=C(C2C1=O)COC)C(=C(N3)C)C)C3=CC=CC=C3 | C20H21N3O3
solvent | methanol | 20 ml | CO | CH4O
product | (7S,8R,9R)-7,8-Dihydroxy-6-methoxymethyl-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 80 mg | O[C@@H]1[C@@H]([C@H](NC=2C=3N(C=C(C12)COC)C(=C(N3)C)C)C3=CC=CC=C3)O | C20H23N3O3
